US05482967
While stirring a mixture of 6-chloro-4-phenyl-3-quinolinecarboxylic acid methyl ester (8.0 g) and ethyl ether (100 ml) at 0° C., lithium aluminum hydride (1.0 g) was added, followed by stirring for 30 minutes. After water (5 ml) was added, the mixture was stirred at room temperature for 30 more minutes. After ethyl acetate was added, the insoluble material was altered off. The filtrate was washed by successively with aqueous potassium carbonate and saturated aqueous sodium chloride and then dried, after which the solvent was distilled off, to yield 6-chloro-3-hydroxymethyl-4-phenylquinolin as colorless crystals (6.05 g).

reactant | 6-chloro-4-phenyl-3-quinolinecarboxylic acid methyl ester | 8.0 g | COC(=O)C=1C=NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C17H12ClNO2
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-3-hydroxymethyl-4-phenylquinolin | 6.05 g | ClC=1C=C2C(=C(C=NC2=CC1)CO)C1=CC=CC=C1 | C16H12ClNO
